US04327022
To a stirred mixture of 7.1 g. of a 57% mineral oil dispersion of sodium hydride in 400 ml. of dry glyme under nitrogen was added dropwise 28.0 g. of diethyl phosphonoacetonitrile followed by a solution of 25.5 g. of 7-methoxy-2-tetralone in 50 ml. of glyme. After stirring four hours at room temperature the mixture was allowed to stand overnight under nitrogen. The mixture was decanted from an insoluble residue; the supernatant was concentrated in vacuo, and poured into 350 ml. of ice-water. The product was extracted with chloroform and the extracts were washed with water, dried over anhydrous magnesium sulfate and evaporated to dryness to give 29.9 g of 3,4-dihydro-7-methoxy-2-naphthaleneacetonitrile which was converted directly to 7-methoxy-2-naphthaleneacetonitrile as described hereinabove in Example 123.

reactant | sodium hydride | [H-].[Na+]
reactant | diethyl phosphonoacetonitrile | C(C)C(C#N)(P(=O)(O)O)CC | C6H12NO3P
reactant | 7-methoxy-2-tetralone | COC1=CC=C2CCC(CC2=C1)=O | C11H12O2
solvent | glyme | C(OC)COC | C4H10O2
product | 3,4-dihydro-7-methoxy-2-naphthaleneacetonitrile | 29.9 g | COC1=CC=C2CCC(=CC2=C1)CC#N | C13H13NO
